US05135932
6-[1-[2-[3-(4-(2-Isobutoxyethyl)phenoxy)-2-hydroxypropylamino]-2,2-dimethyl-ethyl]benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-isobutoxyethyl)-phenoxy]-2,3-epoxypropane and 6-[1-(2-amino-2,2-dimethylethyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 1-[4-(2-isobutoxyethyl)-phenoxy]-2,3-epoxypropane | C(C(C)C)OCCC1=CC=C(OCC2CO2)C=C1 | C15H22O3
reactant | 6-[1-(2-amino-2,2-dimethylethyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | NC(CN1C=NC2=C1C=CC(=C2)C=2CCC(NN2)=O)(C)C | C15H19N5O
product | 6-[1-[2-[3-(4-(2-Isobutoxyethyl)phenoxy)-2-hydroxypropylamino]-2,2-dimethyl-ethyl]benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | C(C(C)C)OCCC1=CC=C(OCC(CNC(CN2C=NC3=C2C=CC(=C3)C=3CCC(NN3)=O)(C)C)O)C=C1 | C30H41N5O4
